US04742052
A mixture of 2,2-dimethylglutaric anhydride (19.34 g), anise alcohol (22.08 g) and triethylamine (19.39 g) in dry dioxane (360 ml) was stirred at 80° C. for 3.5 hours. The reaction mixture was evaporated and the residue was diluted with water and adjusted to pH 9 with potassium carbonate. The aqueous layer was washed with benzene, acidified with dilute hydrochloric acid and extracted with benzene. The extract was washed with water, dried over anhydrous sodium sulfate and evaporated to give p-methoxybenzyl 4-carboxy-4-methylvalerate.

reactant | 2,2-dimethylglutaric anhydride | 19.34 g | CC1(C(=O)OC(CC1)=O)C | C7H10O3
reactant | anise alcohol | 22.08 g | OCC1=CC=C(OC)C=C1 | C8H10O2
reactant | triethylamine | 19.39 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 360 ml | O1CCOCC1 | C4H8O2
product | p-methoxybenzyl 4-carboxy-4-methylvalerate | C(=O)(O)C(CCC(=O)OCC1=CC=C(C=C1)OC)(C)C | C15H20O5
